US09334286B2
Preparation 141: (1-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-5-yl)methanol
To a solution of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-5-carbaldehyde (Preparation 142, 80 mg, 0.339 mmol) in MeOH (4 mL) at room temperature was added NaBH4 (25.6 mg, 0.678 mmol). The resulting solution was stirred at room temperature for 2 hours before concentrating in vacuo. EtOAc (10 mL) and water (0.5 mL) were added to the residue and the mixture was dried over Na2SO4 and concentrated in vacuo to afford the title compound as a white solid (26 mg, 32%).

reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-5-carbaldehyde | 0.339 mmol, 80 mg | CN1N=CC(=C1C=O)B1OC(C(O1)(C)C)(C)C | C11H17BN2O3
reactant | NaBH4 | 0.678 mmol, 25.6 mg | [BH4-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
product | (1-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-5-yl)methanol | 26 mg, 32% | CN1N=CC(=C1CO)B1OC(C(O1)(C)C)(C)C | C11H19BN2O3
